### PR TITLE
[Merged by Bors] - perf: speed up succEquiv_coherence

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
The proof is still ridiculous, but it's a 20x reduction in time spent in the kernel locally (~20s to ~1s).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 1]
```diff
@@ -185,7 +185,10 @@ def succEquiv (i : ι) : (E⟮<i⁺⟯ →ₐ[F] Ē) ≃ (E⟮<i⟯ →ₐ[F] Ē
 
 theorem succEquiv_coherence (i : ι) (f) : (succEquiv i f).1 =
     f.comp (Subalgebra.inclusion <| strictMono_filtration.monotone <| le_succ i) := by
-  ext; simp [succEquiv]; rfl -- slow rfl (type checking took 11.9s)
+  ext; simp [succEquiv]
```
Comment (vihdzp) [inline Mathlib/FieldTheory/CardinalEmb.lean]: Shouldn't we merge both simp calls?

**Comment by leanprover-radar** [comment]
Waiting until the label https://github.com/leanprover-community/mathlib4/labels/awaiting-CI is removed.

<sub>You can edit the original message until the command succeeds.</sub>
